US08138189B2
Step 2: 4-{3-Chloro-4-[2-(1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-3-trifluoromethyl-benzoic acid
In analogy to Example 214, step 2, 4-{3-chloro-4-[2-(1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-3-trifluoromethyl-benzaldehyde was oxidized with sodium chlorite to give the title compound as a colorless solid. MS (m/e, ISP neg. ion)=562.0 [M−H+].

reactant | 4-{3-chloro-4-[2-(1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-3-trifluoromethyl-benzaldehyde | ClC=1C=C(OC2=C(C=C(C=O)C=C2)C(F)(F)F)C=CC1C(C(C(F)(F)F)(O)C1=CN(C(C(=C1)C)=O)C)C | C25H20ClF6NO4
reactant | sodium chlorite | Cl(=O)[O-].[Na+]
product | 4-{3-Chloro-4-[2-(1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-3-trifluoromethyl-benzoic acid | ClC=1C=C(OC2=C(C=C(C(=O)O)C=C2)C(F)(F)F)C=CC1C(C(C(F)(F)F)(O)C1=CN(C(C(=C1)C)=O)C)C | C25H20ClF6NO5
